US06420381B1
Preparation of N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-(2,6-diisopropyl-4-hydroxymethylphenyl)urea:
A solution of N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2,6-diisopropyl-4-(tert-butyldimethylsilyloxymethyl)phenyl]urea (6.75 g, 10.1 mmol) in methanol containing 15% HCl (100 ml) is stirred at room temperature for 3 hours. Water is added to the reaction solution, and the mixture is extracted with ethyl acetate. The organic layer is washed with water (once) and an aqueous sodium hydrogen carbonate solution (once). The solvent is concentrated under reduced pressure, and the residue is purified by silica gel chromatography to give the title compound (5.0 g, 8.99 mmol) as colorless amorphous.

reactant | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2,6-diisopropyl-4-(tert-butyldimethylsilyloxymethyl)phenyl]urea | 10.1 mmol, 6.75 g | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=C(C=C1C(C)C)CO[Si](C)(C)C(C)(C)C)C(C)C)=O | C39H54N4O4Si
reactant | Water | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-(2,6-diisopropyl-4-hydroxymethylphenyl)urea | 8.99 mmol, 5.0 g | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=C(C=C1C(C)C)CO)C(C)C)=O | C33H40N4O4
